US07375227B2
170A. Methyl-(1-{2-[3-(2-methyl-quinolin-4-yl)-ureido]-ethyl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester
A mixture of methyl-pyrrolidin-3-yl-carbamic acid tert-butyl ester (10 mmol), 1-(2-chloro-ethyl)-3-(2-methyl-quinolin-4-yl)-urea (10 mmol), NaHCO3 (20 mmol), Nal (0.5 mmol), and THF (70 mL) is stirred in a sealed vessel at 70° C. for 6 d. The reaction mixture is filtered, evaporated to dryness, and the residue is purified by preparative HPLC to provide the title compound.

reactant | methyl-pyrrolidin-3-yl-carbamic acid tert-butyl ester | 10 mmol | C(C)(C)(C)OC(N(C1CNCC1)C)=O | C10H20N2O2
reactant | 1-(2-chloro-ethyl)-3-(2-methyl-quinolin-4-yl)-urea | 10 mmol | ClCCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C13H14ClN3O
reactant | NaHCO3 | 20 mmol | C(=O)(O)[O-].[Na+]
reactant | Nal | 0.5 mmol | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | Methyl-(1-{2-[3-(2-methyl-quinolin-4-yl)-ureido]-ethyl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1CN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C)C)=O | C23H33N5O3
